US07517896B2
XII.6. Methyl 4-({[2-(5-fluoro-2-methoxyphenyl)ethyl]imino}methyl)benzoate
9.00 g (53 mmol) of 2-(5-fluoro-2-methoxyphenyl)ethylamine and 8.73 g (53 mmol) of methyl 4-formylbenzoate are dissolved in 450 ml of ethanol, the mixture is heated at reflux for 2 hours and the solvents are then evaporated under reduced pressure.

reactant | 2-(5-fluoro-2-methoxyphenyl)ethylamine | 53 mmol, 9.00 g | FC=1C=CC(=C(C1)CCN)OC | C9H12FNO
reactant | methyl 4-formylbenzoate | 53 mmol, 8.73 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | Methyl 4-({[2-(5-fluoro-2-methoxyphenyl)ethyl]imino}methyl)benzoate | FC=1C=CC(=C(C1)CCN=CC1=CC=C(C(=O)OC)C=C1)OC | C18H18FNO3
